US07964618B2
(S)-methyl 2-(1-(5-(cyclohexylcarbamoyl)-3-fluoro-6-(propylthio)pyridin-2-yl)piperidin-3-yl)acetate
(S)-methyl 2-(piperidin-3-yl)acetate hydrochloride (263 mg, 1.36 mmol) was added to 6-chloro-N-cyclohexyl-5-fluoro-2-(propylthio)nicotinamide (500 mg, 1.51 mmol) and potassium carbonate (418 μl, 3.02 mmol) in butyronitrile (20 ml) at room temperature and under air. The resulting suspension was stirred at 120° C. for 80 hours.

reactant | (S)-methyl 2-(piperidin-3-yl)acetate hydrochloride | 1.36 mmol, 263 mg | Cl.N1C[C@@H](CCC1)CC(=O)OC
reactant | 6-chloro-N-cyclohexyl-5-fluoro-2-(propylthio)nicotinamide | 1.51 mmol, 500 mg | ClC1=NC(=C(C(=O)NC2CCCCC2)C=C1F)SCCC | C15H20ClFN2OS
reactant | potassium carbonate | 3.02 mmol, 418 μl | C([O-])([O-])=O.[K+].[K+]
solvent | butyronitrile | 20 ml | C(CCC)#N | C4H7N
product | (S)-methyl 2-(1-(5-(cyclohexylcarbamoyl)-3-fluoro-6-(propylthio)pyridin-2-yl)piperidin-3-yl)acetate | C1(CCCCC1)NC(=O)C=1C=C(C(=NC1SCCC)N1C[C@@H](CCC1)CC(=O)OC)F | C23H34FN3O3S
